US06348317B1
2.0 g (11 mmol) of 3-methylbenzothiazole-2-thione and 3.5 mL (55 mmol) of iodomethane were refluxed in 50 mL of absolute ethanol for 4 hours. Diethyl ether was added to the cooled mixture to precipitate the product. Recrystallization from ethanol:diethyl ether gave 3.2 g (90%) of pure 2-methylmercapto-3-methylbenzothiazole iodide.

reactant | 3-methylbenzothiazole-2-thione | 11 mmol, 2.0 g | CN1C(SC2=C1C=CC=C2)=S | C8H7NS2
reactant | iodomethane | 55 mmol, 3.5 mL | IC | CH3I
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-methylmercapto-3-methylbenzothiazole iodide | 3.2 g, 90% | [I-].CSC1SC2=C(N1C)C=CC=C2 | InChI=1S/C9H11NS2.HI/c1-10-7-5-3-4-6-8(7)12-9(10)11-2;/h3-6,9H,1-2H3;1H/p-1
